US04066645
b. 5-Ethoxy-2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidine
2.2 g. of 5-chloro-2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidine are added to a solution of 0.5 g. of sodium in 30 ml. of ethanol. The solution is refluxed with stirring for 12 hours. 10 ml. of water are added and the crystalline 5-ethoxy-2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidine is filtered off, yield: 1.4 g. (61%); m.p. 156.2° (methanol).

reactant | 5-chloro-2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidine | ClC1=NC=2N(C3=C1C=NC=C3)N=C(C2)C | C10H7ClN4
reactant | sodium | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-Ethoxy-2-methylpyrazolo[1,5-a]pyrido[3,4-e]pyrimidine | C(C)OC1=NC=2N(C3=C1C=NC=C3)N=C(C2)C | C12H12N4O
